* Schematics Netlist *



R_R3         0 $N_0001  1k  
X_U2         0 $N_0002 Sw_tOpen PARAMS: tOpen=1s ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R6         $N_0003 $N_0002  10k  
R_R7         0 $N_0004  2k  
C_C1         0 $N_0005  22uF  
C_C2         0 $N_0006  10nF  
E_U3         $N_0007 0 VALUE {LIMIT(V($N_0003,$N_0004)*1E6,0V,+5V)}
X_X1         0 $N_0007 $N_0001 $N_0008 $N_0006 $N_0005 $N_0005 $N_0008 555D
+  PARAMS: MAXFREQ=3E6
R_R2         $N_0005 $N_0008  10k  
R_R5         $N_0003 $N_0008  10k  
V_V1         $N_0008 0 5V
R_R9         $N_0004 $N_0008  1k  
