* Schematics Netlist *



C_C1         0 $N_0001  100pF  
R_R5         $N_0003 $N_0002  10k  
R_R1         $N_0001 $N_0002  10k  
R_R7         $N_0004 $N_0001  100k  
Q_Q3         $N_0003 $N_0005 0 Q2N2222
RT_R3         $N_0006 $N_0007 {(47k*(1-0.75))+.001}
RB_R3        $N_0007 $N_0002 {(47k*0.75)+.001}
RT_R4         $N_0005 $N_0008 {(47K*(1-0.7))+.001}
RB_R4        $N_0008 $N_0008 {(47K*0.7)+.001}
V_V2         $N_0002 0 5V
V_V1         $N_0001 0 DC 0 
+PULSE 0 5 0.01S 0 0 0.1S 
Q_Q1         $N_0006 $N_0004 0 Q2N2222
R_R2         $N_0006 $N_0002  47k  
Q_Q2         $N_0008 $N_0007 $N_0002 Q2N3906
C_C2         0 $N_0008  4.7uF  
