* C:\Users\Desktop\Dropbox\EV\2016 Hardware\_Lights Done\TSAL Simulation\tsalEnable1.asc
XU1 N005 N003 N002 LT1083
C1 N002 0 10µf
R1 N005 0 1k
C2 N003 0 10µf
XU2 N008 N006 N004 NC_01 N007 LTC6244
R3 N003 N004 2k
D1 N002 N001 KDZ27B
D2 0 N004 UMZ12K
R4 N003 N008 10k
R5 N008 0 1k
R6 N004 N006 2k
R7 N003 N005 40
V1 N001 0 SINE(40 20 100)
D4 0 N006 UDZV6_2B
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran .2
.lib LT1083.lib
.lib LTC5.lib
.backanno
.end
