* Schematics Netlist *



R_R6         0 $N_0001  1k  
R_R8         0 $N_0002  1k  
R_R5         $N_0004 $N_0003  1k  
V_V1         $N_0003 0 5V
X_U3A         $N_0004 $N_0004 $N_0004 $N_0005 $N_0001 $N_0002 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V2         $N_0006 0 DC 5 
+PULSE 5v 0v 2s 0.1ms 0.1s 1s 5s
E_U4         $N_0005 0 VALUE {LIMIT(V($N_0006,$N_0007)*1E6,-15V,+15V)}
V_V3         $N_0007 0 2.5V
