* Schematics Netlist *



V_V1         $N_0001 0 3.3v
R_R5         0 $N_0002  5  
R_R3         $N_0001 $N_0003  100  
V_V2         $N_0004 0 3.3v
R_R7         0 $N_0005  5  
R_R8         $N_0004 $N_0006  100  
R_R9         $N_0005 $N_0006 {0*1+.001}
R_R6         $N_0002 $N_0003 {2k*1+.001}
V_V3         $N_0007 0 3.3v
R_R10         0 $N_0008  5  
R_R11         $N_0007 $N_0009  100  
R_R13         0 $N_0010  5  
V_V4         $N_0011 0 3.3v
R_R15         $N_0010 0 {1k*1+.001}
R_R14         $N_0011 0  100  
R_R12         $N_0008 $N_0009 {2G*1+.001}
